US08227458B2
trans-4-(3-Chloro-phenoxy)-cyclohexanecarboxylic acid hydrazide
A mixture of trans-4-(3-chloro-phenoxy)-cyclohexanecarboxylic acid methyl ester (0.25 g, 0.93 mmol) and hydrazine hydrate (0.044 ml, 0.91 mmol) was heated at 120° C. for 22 h. Addition of further hydrazine hydrate (0.020 ml, 0.42 mmol) was followed by stirring at 120° C. for 5 h. After cooling to room temperature the reaction mixture was partitioned between ethyl acetate (50 ml) and 1 M aqueous sodium hydroxide solution (50 ml). The layers were separated and the aqueous layer was extracted with a 50-ml portion of ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate and concentrated in vacuo to give the crude title compound (0.21 g, 86%) as white solid, which was used in the next step without further purification. MS m/e: 269 (M+H+)

reactant | trans-4-(3-chloro-phenoxy)-cyclohexanecarboxylic acid methyl ester | 0.93 mmol, 0.25 g | COC(=O)[C@@H]1CC[C@H](CC1)OC1=CC(=CC=C1)Cl | C14H17ClO3
reactant | hydrazine hydrate | 0.91 mmol, 0.044 ml | O.NN
reactant | hydrazine hydrate | 0.42 mmol, 0.020 ml | O.NN
product | trans-4-(3-Chloro-phenoxy)-cyclohexanecarboxylic acid hydrazide | 0.21 g, 86% | ClC=1C=C(O[C@@H]2CC[C@H](CC2)C(=O)NN)C=CC1 | C13H17ClN2O2
